US07244725B2
A.12. 6-ethyl-2,3-dihydroquinolin-4(1H)-one
A solution of phosphorus pentoxide (11.14 g) in methane sulfonic acid (114 mL) was heated to 130°. The mixture was stirred at 130° for one hour until all the phosphorus pentoxide had dissolved. The mixture was allowed to cool for 15 minutes, and ethyl N-(4-ethylphenyl)-beta-alaninate (11.14 g of mono and di-ester mixture) was added. The mixture was heated to 130° for 1.5 hours, and the mixture was allowed to cool to room temperature. The mixture was cooled in an ice bath, and 50% sodium hydroxide was added until the pH reached 8. The gummy dark solids were dissolved in MeOH, and added to the mixture. Solids began to crash out, so they were filtered off with celite. The liquids were combined, and were partitioned between dichloromethane and water, and the organics were extracted three times with dichloromethane. The combined organics were washed with brine, dried with sodium sulfate, filtered, and concentrated. The product was chromatographed using a 30% ethyl acetate in heptane solvent solution. 4.10 g of the title product were recovered. (28% yield through first two steps) MS (ESI+) for C11H13NO m/z 176.00 (M+H)+.

reactant | phosphorus pentoxide | 11.14 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethyl N-(4-ethylphenyl)-beta-alaninate | 11.14 g | C(C)C1=CC=C(C=C1)NCCC(=O)OCC | C13H19NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methane sulfonic acid | 114 mL | CS(=O)(=O)O | CH4O3S
solvent | MeOH | CO | CH4O
product | 6-ethyl-2,3-dihydroquinolin-4(1H)-one | 28% yield | C(C)C=1C=C2C(CCNC2=CC1)=O | C11H13NO
